US05811459
To a solution of 3-allyloxybenzyl alcohol (7.2 g) in dichloromethane (100 ml) at 0° C. was added thionyl chloride (4.8 ml) in dichloromethane dropwise and a drop of DMF and the mixture stirred at ambient temperature for 1.5 hours, and poured into cold sodium bicarbonate solution. The organic layer was washed with sodium bicarbonate (2×100 ml), dried (magnesium sulphate), filtered and evaporated to give 3-allyloxybenzyl chloride (8.3 g).

reactant | 3-allyloxybenzyl alcohol | 7.2 g | C(C=C)OC=1C=C(CO)C=CC1 | C10H12O2
reactant | thionyl chloride | 4.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-allyloxybenzyl chloride | 8.3 g | C(C=C)OC=1C=C(CCl)C=CC1 | C10H11ClO
